US20010016658A1
Bis[1-(2-hydroxypropoxy)-2,2,6,6-tetramethylpiperidin-4-yl]Sebacate
Tributyltin hydride is added dropwise to a solution of 1-bromo-2-propanol and excess bis(1-oxyl-2,2,6,6-tetramethylpiperidin4-yl) sebacate in chlorobenzene. The mixture is heated to facilitate reaction. The crude reaction mixture is passed through silica gel with heptane and then heptane/ethyl acetate to afford the title compound.

reactant | Tributyltin hydride | C(CCC)[SnH](CCCC)CCCC
reactant | 1-bromo-2-propanol | BrCC(C)O | C3H7BrO
reactant | bis(1-oxyl-2,2,6,6-tetramethylpiperidin4-yl) sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)O)(C)C)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C28H52N2O6
reactant | heptane | CCCCCCC | C7H16
reactant | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | Bis[1-(2-hydroxypropoxy)-2,2,6,6-tetramethylpiperidin-4-yl]Sebacate | OC(CON1C(CC(CC1(C)C)OC(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OCC(C)O)(C)C)=O)(C)C)C | C34H64N2O8
